US20010019995A1
b. 9-(1-Ethoxyethoxy)-2-bromonon-1-ene
A slurry of 5.6 g of magnesium turnings (230 mmol) in 100 ml of THF was treated with a small amount of 1,2-dibromoethane. 1-(1-Ethoxyethoxy)-6-bromohexane (38.5 g, 152 mmol) was fed slowly to the reaction mixture, maintaining the temperature at 40-50° C. At the end of the addition the reaction mixture was held 20 minutes, then transferred by cannula to solution of 33.4 g (167 mmol) of 1,2-dibromoprop-2-ene in 25 ml of THF at 0° C. The reaction mixture was stirred at 0° C. for 15 minutes, then stirred at room temperature for 15 minutes, then quenched with water. The reaction mixture was transferred into a separatory funnel. A small amount of 1 N HCl was added, the phases were separated, the ether phase was washed with water and brine, then dried over magnesium sulfate, filtered, and stripped to give 33.63 g of a yellow liquid which was used without further purification.

reactant | magnesium | 230 mmol, 5.6 g | [Mg] | Mg
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 1-(1-Ethoxyethoxy)-6-bromohexane | 152 mmol, 38.5 g | C(C)OC(C)OCCCCCCBr | C10H21BrO2
reactant | 1,2-dibromoprop-2-ene | 167 mmol, 33.4 g | BrCC(=C)Br | C3H4Br2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 9-(1-Ethoxyethoxy)-2-bromonon-1-ene | 33.63 g | C(C)OC(C)OCCCCCCCC(=C)Br | C13H25BrO2
